US05550233
2-(4-Methoxyphenyl)vinyl bromide
To a solution of bromomethyltriphenylphosphonium bromide (5.23 gm, 12 mmol) in THF (40 ml) at -78° C. was added NaHMDS (1 M, 11 mL). After stirring for 30 min., 4-methoxyphenylcarboxaldehyde (1.36 gm, 10 mmol) was added and the reaction mixture was stirred for 2 hours at which time reaction was complete (TLC, silica, 2:10 ethyl acetate:hexanes). To the reaction mixture was added NH4C;, and it was extracted with Et2O. The organic fractions were washed with KHCO3 solution and brine, dried over MgSO4, filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography (silica, 20% EtOAc in hexanes) to give the title compound.

reactant | bromomethyltriphenylphosphonium bromide | 12 mmol, 5.23 gm | [Br-].BrC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaHMDS | 1 M, 11 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(4-Methoxyphenyl)vinyl bromide | COC1=CC=C(C=C1)C=CBr | C9H9BrO
